US05208244
The compound was prepared following a procedure of Hummel et al. Liebigs Ann. Chem. 746, 211-213 (1971). Anhydrous pyridine (20.0 mL, 19.6 g, 0.248 mol) was added to a stirred solution of trifluoromethanesulfonic anhydride (70.0 g, 0.248 mol) in anhydrous CH2Cl2 (500 mL) at 0° C. over a dry nitrogen atmosphere in an oven-dried apparatus. A heavy white precipitate formed immediately, and the resulting slurry was stirred for 15 min at 0° C. A solution of 3-butyn-1-ol (16.6 g, 0.236 mol) in anhydrous CH2Cl2 (80 mL) was added dropwise at 0° C. The slurry was warmed to room temperature and stirred for 2 h. Pentane (1000 mL) was added and the precipitated salts were filtered and washed with pentane. Fractional distillation of the combined filtrates gave 39.9 g (84% yield) of 3-butynyl triflate as a colorless liquid:

reactant | pyridine | 0.248 mol, 20.0 mL, 19.6 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.248 mol, 70.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-butyn-1-ol | 0.236 mol, 16.6 g | C(CC#C)O | C4H6O
reactant | Pentane | 1000 mL | CCCCC | C5H12
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 3-butynyl triflate | 39.9 g, 84% yield | O(S(=O)(=O)C(F)(F)F)CCC#C | C5H5F3O3S
